US08124766B2
With a procedure similar to the example above, 4-{4-[(6,7-diethoxy-3-methyl-benzofuran-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester was prepared from 6,7-diethoxy-3-methyl-benzofuran-2-carboxylic acid and 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester. LCMS calcd for C29H37N3O6 (m/e) 523, obsd 524 (M+H).

reactant | 6,7-diethoxy-3-methyl-benzofuran-2-carboxylic acid | C(C)OC1=C(C2=C(C(=C(O2)C(=O)O)C)C=C1)OCC | C14H16O5
reactant | 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N | C15H23N3O2
product | 4-{4-[(6,7-diethoxy-3-methyl-benzofuran-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C=CC(=C2OCC)OCC | C29H37N3O6
